US07220856B2
4-[4-(tert-Butoxycarbonyl)piperazin-1-yl]-7-chloroquinol-2-one (150 mg, 0.41 mmol), sodium hydride (15 mg, 0.6 mmol), N-phenyl(trifluoromethylsulfon)imide (208 mg, 0.58 mmol), and 4-fluorophenethylamine (0.22 mL, 1.65 mmol) are treated according to method E yielding 4-[4-(butoxycarbonyl)piperazin-1-yl]-7-chloro-2-[2-(4-fluorophenyl)ethylamino]quinoline, which is deprotected with TFA in CH2Cl2 and transformed into the title product according to method C using 4-fluorophenyl isocyanate (18 μL, 0.16 mmol) and triethylamine (110 μL, 0.79 mmol) to give a colorless solid.

reactant | 4-[4-(tert-Butoxycarbonyl)piperazin-1-yl]-7-chloroquinol-2-one | 0.41 mmol, 150 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(NC2=CC(=CC=C12)Cl)=O | C18H22ClN3O3
reactant | sodium hydride | 0.6 mmol, 15 mg | [H-].[Na+]
reactant | 4-fluorophenethylamine | 1.65 mmol, 0.22 mL | FC1=CC=C(CCN)C=C1 | C8H10FN
product | 4-[4-(butoxycarbonyl)piperazin-1-yl]-7-chloro-2-[2-(4-fluorophenyl)ethylamino]quinoline | C(CCC)OC(=O)N1CCN(CC1)C1=CC(=NC2=CC(=CC=C12)Cl)NCCC1=CC=C(C=C1)F | C26H30ClFN4O2
